US05268164
N(t-Butoxycarbonyl)-O-Methoxy-L-Tyrosinal
To 150 ml of anhydrous ethyl ether was added 1.04 g (27.37) mmols) of lithium aluminum hydride and the suspension was gently refluxed for 30 minutes. Upon cooling to 4° C., the reflux condenser was replaced by a pressure equalizing dropping funnel containing 7.4 g (21.9 mmols) of N-(t-butoxycarbonyl)-O-methyl-L-tyrosine N-methoxy-N-methylamide dissolved in 100 ml of anhydrous ethyl ether. The contents of the funnel were added over one hour. The reaction mix was allowed to react for an additional two hours. At the end of this time a cold solution of KHSO4 (5.433 g in 230 ml of H2O) was added to the reaction vessel. The layers were separated and the aqueous layer was extracted three times with 150 mls of ether each time. The ether layers were combined and worked up as follows. Washed three times with 200 mls of 3N HCl. Washed three times with 200 mls of saturated sodium bicarbonate. Washed three times with 200 mls of brine. Dried over magnesium sulfate, filtered, and concentrated in vacuo. There remained 3.78 g (61.6%) of a white solid with a mp of 69°-72° C.: Rf=0.65 in 50/50 ethyl acetate/hexane; IR (cm-1, KBr) 3360, 2840, 1740, 1695, 1530, 1255, 1180: MS m/e 279.3 (M+); 1 H (CDCl3), 300 MHz) δ9.63 (s, 1H), δ7.08 (d, 2H, J=8.5 Hz) δ6.84 (d, 2H, J=8.5), δ5.05 (br s, 1H), δ4.40 (m, 1H), δ3.79 (s, 3H), δ3.06 (d, 2H, J=6.50), δ1.44 (s, 9H); 13C NMR (CDCl3, 75.47 MHz) δ200, 158.79, 130.28, 127.69, 114.27, 61.05, 55.29, 34.70, 28.26; Anal. Calcd: C, 64.51; H, 7.52; N, 5.01. Found: C,64.60, H, 7.86; N, 4.93.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(t-butoxycarbonyl)-O-methyl-L-tyrosine N-methoxy-N-methylamide | 21.9 mmols, 7.4 g | CON(C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OC)=O)C | C17H26N2O5
reactant | KHSO4 | 230 ml, 5.433 g | OS(=O)(=O)[O-].[K+]
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | ethyl ether | 150 ml | C(C)OCC | C4H10O
product | N(t-Butoxycarbonyl)-O-Methoxy-L-Tyrosinal | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OOC)C=O | C15H21NO5
